US09169254B2
6 N NaOH (1.5 ml) was added to a solution of bromo-acetic acid 2-[acetyl-(4-bromo-3,5-dimethyl-phenyl)-amino]-ethyl ester (302 mg, 0.74 mmol) in EtOH (6 ml). The reaction solution was heated under reflux overnight, cooled to room temperature and then diluted with ethyl acetate. The organic phase was sequentially washed with water and saturated brine and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 2-(4-bromo-3,5-dimethyl-phenylamino)-ethanol (181 mg, 68%).

reactant | NaOH | 6 N, 1.5 ml | [OH-].[Na+]
reactant | bromo-acetic acid 2-[acetyl-(4-bromo-3,5-dimethyl-phenyl)-amino]-ethyl ester | 0.74 mmol, 302 mg | C(C)(=O)N(CCOC(CBr)=O)C1=CC(=C(C(=C1)C)Br)C | C14H17Br2NO3
solvent | EtOH | 6 ml | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-bromo-3,5-dimethyl-phenylamino)-ethanol | 181 mg, 68% | BrC1=C(C=C(C=C1C)NCCO)C | C10H14BrNO
